US07723330B2
Step E: Preparation of 1-(benzo[d]oxazol-2-yl)-N-(4-(3-(4-(dimethylamino)piperidin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)cyclopropanecarboxamide:
To a flask containing N-(4-(1-(4-methoxybenzyl)-3-(4-(dimethylamino)piperidin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-1-(benzo[d]oxazol-2-yl)cyclopropanecarboxamide (6.6 mg, 0.01 mmol) at room temperature under a drying tube was added TFA (2 mL). The reaction was warmed to 50° C. overnight. The reaction was cooled to room temperature and was concentrated. The residue was dissolved in 10 mL dichloromethane and stirred rapidly with 10 mL 10% sodium carbonate solution. The layers were separated and the organics dried (MgSO4). The crude product was concentrated and the crude material was loaded onto a Biotage 12S column with dichloromethane. The column was eluted with a step gradient of dichloromethane (150 mL) and 94.5/5/0.5 dichloromethane/MeOH, concentrated ammonium hydroxide to provide the desires product as a yellow glass (2.7 mg, 50% yield). 1H NMR (400 MHz, CDCl3) δ 12.17 (br s, 1H), 9.92 (br s, 1H), 8.24 (d, 1H), 7.90 (m, 1H), 7.73 (m, 1H), 7.48 (m, 2H), 7.38 (m, 2H), 7.30 (m, 1H), 6.21 (d, 1H), 4.11 (m, 2H), 2.91 (m, 2H), 2.40 (m, 1H), 2.34 (s, 6H), 2.08 (m, 2H), 1.96 (br m, 2H), 1.90 (m, 2H), 1.74 (br m, 2H). LCMS (APCI+): m/z 556 (M+1) detected.

reactant | N-(4-(1-(4-methoxybenzyl)-3-(4-(dimethylamino)piperidin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-1-(benzo[d]oxazol-2-yl)cyclopropanecarboxamide | 0.01 mmol, 6.6 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C3(CC3)C=3OC2=C(N3)C=CC=C2)F)N2CCC(CC2)N(C)C)C=C1 | C38H38FN7O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(benzo[d]oxazol-2-yl)-N-(4-(3-(4-(dimethylamino)piperidin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)cyclopropanecarboxamide | 2.7 mg, 50% yield | O1C(=NC2=C1C=CC=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)OC2=C1C(=NC=C2)NN=C1N1CCC(CC1)N(C)C)F | C30H30FN7O3
